US08895602B1
3-(tert-Butoxycarbonyl)-3-azabicyclo[3.1.0]hexane-6-carboxylic acid
The tert-butyl 6-ethoxycarbonyl-3-azabicyclo[3.1.0]hexane-3-carboxylate exo-isomer (613 mg, 2.40 mmol) prepared in Example 2 was dissolved in 6 mL of ethanol and 2N NaOH (2.40 mL, 4.80 mmol) was added dropwsie at 0° C. After stirring at room temperature for 3 hours, the completion of the reaction was confirmed by TLC (hexane:ethyl acetate=6:1). After the reaction was completed, the reaction mixture was concentrated under reduced pressure and then extracted by adding methylene chloride and water. After removing the organic layer containing byproducts, the aqueous layer was acidified with 1N HCl and extracted with methylene chloride. The organic layer was dried with anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to obtain 527 mg (96.5%) of the target compound.

reactant | tert-butyl 6-ethoxycarbonyl-3-azabicyclo[3.1.0]hexane-3-carboxylate | C(C)OC(=O)C1C2CN(CC12)C(=O)OC(C)(C)C | C13H21NO4
reactant | NaOH | 4.80 mmol, 2N, 2.40 mL | [OH-].[Na+]
reactant | hexane | CCCCCC | C6H14
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | 3-(tert-Butoxycarbonyl)-3-azabicyclo[3.1.0]hexane-6-carboxylic acid | 527 mg, 96.5% | C(C)(C)(C)OC(=O)N1CC2C(C2C1)C(=O)O | C11H17NO4
